US07745484B2
To a solution of 4-(1-chloro-2,2,2-trifluoroethyl)phenol (3.60 g, 17.1 mmol) in THF was added sodium borohydride (0.903 ml, 25.6 mmol) in one portion. The reaction was stirred at RT for 18 h, and then quenched with MeOH. The resulting mixture was concentrated and diluted with EtOAc. After washed with water and brine. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was dried in vacuum to afford 4-(2,2,2-trifluoroethyl)phenol as a colorless oil. MS m/z: 175(M−1).

reactant | 4-(1-chloro-2,2,2-trifluoroethyl)phenol | 17.1 mmol, 3.60 g | ClC(C(F)(F)F)C1=CC=C(C=C1)O | C8H6ClF3O
reactant | sodium borohydride | 25.6 mmol, 0.903 ml | [BH4-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 4-(2,2,2-trifluoroethyl)phenol | FC(CC1=CC=C(C=C1)O)(F)F | C8H7F3O
